US05693639
1-[4-(N,N-Diethylaminosulfonyl)phenyl]-4,4,4-trifluoro-3-hydroxy-3-methyl-trans-but-1-ene.
Using a procedure similar to that described in Example 11, but substituting 1-[4-(N,N-diethylaminosulfonyl)phenyl]-4,4,4-trifluoro-3-hydroxy-3-methylbut-1-yne for the 4,4,4-trifluoro-3-hydroxy-3-methyl-1-[4-(1-pyrrolidinylsulfonyl)phenyl]but-1-yne used therein, the title compound was prepared; mp 112.1°-117.2° C.; MS: m/z=352(M+1). Analysis for C15 H20F3NO3S: Calculated: C, 51.27; H, 5.74; N, 3.99. Found: C, 51.17; H, 5.96; N, 3.87.

reactant | 1-[4-(N,N-diethylaminosulfonyl)phenyl]-4,4,4-trifluoro-3-hydroxy-3-methylbut-1-yne | C(C)N(S(=O)(=O)C1=CC=C(C=C1)C#CC(C(F)(F)F)(C)O)CC | C15H18F3NO3S
reactant | 4,4,4-trifluoro-3-hydroxy-3-methyl-1-[4-(1-pyrrolidinylsulfonyl)phenyl]but-1-yne | FC(C(C#CC1=CC=C(C=C1)S(=O)(=O)N1CCCC1)(C)O)(F)F | C15H16F3NO3S
product | 1-[4-(N,N-Diethylaminosulfonyl)phenyl]-4,4,4-trifluoro-3-hydroxy-3-methyl-trans-but-1-ene | C(C)N(S(=O)(=O)C1=CC=C(C=C1)\C=C\C(C(F)(F)F)(C)O)CC | C15H20F3NO3S
